US07601850B2
F. (5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-sulfonylamine)-acetic acid methyl ester
To a solution of [5-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-sulfonylamine]-acetic acid methyl ester (380 mg, 0.59 mmol) in acetonitrile (10 ml) at 0° C. is added hydrofluoride solution (3 ml, 48% in water). After stirring at RT for 2 h, the reaction is concentrated and partitioned between EtOAc and 1N HCl. The organic layer is washed successively with 1N HCl and brine. Tle organic layer is concentrated and chromatographed (Hex to 25% EtOAc/Hex) to give the title compound (250 mg, 82%).

reactant | [5-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-sulfonylamine]-acetic acid methyl ester | 0.59 mmol, 380 mg | COC(C)=O.C(C)(C)(C)[Si](OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)S(=O)(=O)N)C)C)C(C)(C)C)(C)C
reactant | hydrofluoride | 3 ml | F | FH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-sulfonylamine)-acetic acid methyl ester | 250 mg, 82% | COC(C)=O.C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(S1)S(=O)(=O)N)C | InChI=1S/C23H35NO4S2.C3H6O2/c1-8-23(9-2,20-13-16(4)21(29-20)30(24,26)27)17-10-11-18(15(3)12-17)28-14-19(25)22(5,6)7;1-3(4)5-2/h10-13,19,25H,8-9,14H2,1-7H3,(H2,24,26,27);1-2H3
